US05990136
Preparation of N-[[4,5-Dihydro-3-[4-(1,2,3,6-tetrahydropyridinyl) phenyl]-5-isoxazolyl]methyl]acetamide.
To a flame dried flask containing tert-Butyl 4-[4-[5-[(acetylamino)methyl]-4,5-dihydro-3-isoxazolyl]phenyl]-3,6-dihydro-1(2H)-pyridinecarboxylate (270 mg, 0.68 mmol) in methylene chloride (15 mL) at 0° C. is added trifluoroacetic acid (1.04 mL, 13.52 mmol). The reaction is stirred 1 hour at 0° C. and 2 hours at ambient temperature. The reaction is poured over a slurry of ice in saturated potassium carbonate (15 mL). The resulting aqueous phase is extracted with methylene chloride (5×25 mL). The extracts are dried over sodium sulfate concentrated in vacuo to give the title compound, MS (ESI+) for C17H21N3O2 m/z 300.2 (M+H)+.

reactant | tert-Butyl 4-[4-[5-[(acetylamino)methyl]-4,5-dihydro-3-isoxazolyl]phenyl]-3,6-dihydro-1(2H)-pyridinecarboxylate | 0.68 mmol, 270 mg | C(C)(=O)NCC1CC(=NO1)C1=CC=C(C=C1)C=1CCN(CC1)C(=O)OC(C)(C)C | C22H29N3O4
reactant | trifluoroacetic acid | 13.52 mmol, 1.04 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | potassium carbonate | 15 mL | C([O-])([O-])=O.[K+].[K+]
product | N-[[4,5-Dihydro-3-[4-(1,2,3,6-tetrahydropyridinyl) phenyl]-5-isoxazolyl]methyl]acetamide | N1(CCC=CC1)C1=CC=C(C=C1)C1=NOC(C1)CNC(C)=O | C17H21N3O2
